US08133960B2
Preparation of (1-Phenyl Ethyl) Ethyl Xanthate Having the Following Structure
A 500 mL round bottom 3 neck flask was fitted with a magnetic stirrer, nitrogen inlet, and a temperature probe, 1-bromoethyl benzene (20.5 mL) and 200 mL absolute ethanol were added. The reaction flask was placed in an ice/water bath at 0° C. Potassium O-ethyl xanthate was added slowly using a powder funnel rinsed into the reaction flask with an additional 100 mL ethanol. The reaction flask was allowed to stir for an additional 24 hours at room temperature and then 250 mL of purified water was added. The crude mixture was extracted 4 times with 200 mL of 2:1 heptane:ethyl ether retaining the organic layers. The combined organic layers were dried over anhydrous sodium sulfate, filtered and the solvent was removed under reduced pressure to yield 31.42 grams of crude product. A portion, 15 grams, of the crude product was eluted from a silica gel column using hexane to give 12.81 grams of the pure product.

reactant | 1-bromoethyl benzene | 20.5 mL | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | Potassium O-ethyl xanthate | O(C(=S)[S-])CC.[K+]
reactant | ethanol | 200 mL | C(C)O | C2H6O
product | (1-Phenyl Ethyl) Ethyl Xanthate | 12.81 grams | O(C(=S)SCC)C(C)C1=CC=CC=C1 | C11H14OS2
